US09260414B2
A mixture of 4′-{2-[(S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-carboxylic acid TFA (600 mg, 0.9 mmol) and HATU (364 mg, 0.96 mmol) in DMA (8 mL) was stirred at RT for 15 min and then 0.5 M (R)-4-(5-amino-pyridin-2-yl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester in DMA (1.7 mL) was added followed by N,N-diisopropylethylamine (0.76 mL, 4.36 mmol). The resulting mixture was heated at 55° C. overnight, washed with EtOAc (100 mL) and water (25 mL). The organic layer was washed again with water and then with brine, dried over sodium sulfate, filtered, and concentrated to yield a dark reddish oil which was purified by silica gel chromatography (40 g silica column, 0-80% hexane:EtOAc) to provide (R)-4-{5-[(4′-{2-[(S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-carbonyl)-amino]-pyridin-2-yl}-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (646 mg) as a light brownish solid.

reactant | 4′-{2-[(S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-carboxylic acid TFA | 0.9 mmol, 600 mg | OC(=O)C(F)(F)F.COC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)O)OC(F)(F)F)C(C)C
reactant | HATU | 0.96 mmol, 364 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-4-(5-amino-pyridin-2-yl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.5 M | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)N)C | C15H24N4O2
reactant | N,N-diisopropylethylamine | 4.36 mmol, 0.76 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMA | 8 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 1.7 mL | CC(=O)N(C)C | C4H9NO
product | (R)-4-{5-[(4′-{2-[(S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-carbonyl)-amino]-pyridin-2-yl}-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 646 mg | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)NC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(CCC1)C([C@H](C(C)C)NC(=O)OC)=O)OC(F)(F)F)C | C43H51F3N8O7
